US09376380B2
N,N′-(2-phenylethane-1,1-diyl)bis(2-phenylacetamide) (37).
To a well stirred suspension of 2-phenylacetamide (540 mg, 4 mmol) in dry DCM (2 mL) was added the 2-phenylacetaldehyde (240 mg, 2 mmol) and trimethylsilyltrifluoromethane sulonate (22 mg, 0.1 mmol). The mixture was vigorously stirred for 12 h at room temperature, diluted with toluene (4 mL), and filtered. The precipitate was washed several times with toluene which was recrystallized with methanol and hexane to give the final product (140 mg, 19%). 1H NMR (400 MHz, DMSO-d6) δ 8.45 (d, J=7.6 Hz, 2H), 7.14-7.28 (m, 15H), 5.55 (t, J=7.6 Hz, 1H), 3.39 (s, 4H), 2.93 (d, J=7.2 Hz, 2H). LC-MS (ESI): m/z 373.0 (M+H)+.

reactant | 2-phenylacetamide | 4 mmol, 540 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | 2-phenylacetaldehyde | 2 mmol, 240 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | trimethylsilyltrifluoromethane | 0.1 mmol, 22 mg | C[Si](C)(C)C(F)(F)F | C4H9F3Si
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | N,N′-(2-phenylethane-1,1-diyl)bis(2-phenylacetamide) | 140 mg, 19% | C1(=CC=CC=C1)CC(NC(CC1=CC=CC=C1)=O)NC(CC1=CC=CC=C1)=O | C24H24N2O2
